US09382226B2
Step C. 1-methoxy-5-(methyl-thio)-2-(pyridin-3-yl)-1H-benzo[d]imidazole
To a stirred solution of 5-(methyl-thio)-2-(pyridin-3-yl)-1H-benzo[d]imidazol-1-ol (0.36 g, 0.001 mol) in THF (20 ml) NaH (60% suspension in mineral oil), (0.14 g, 0.003 mol) was added. After stirring for the next 20 min at room temperature methyl iodide (0.39 g, 0.002 mol) was added drop wise. The resulting solution was continued to stir at room temperature for the next 3 h. The reaction was quenched with ice cold water and extracted with ethyl acetate (3×100 ml). The combined organic layers were washed with brine dried over Na2SO4 and concentrated under vacuum to afford to afford the crude compound which was purified by chromatography to obtain title compound 1-methoxy-5-(methyl-thio)-2-(pyridin-3-yl)-1H-benzo[ ]imidazole as a stick brown solid. 1H NMR (400 MHz, DMSO-d6), δ 9.47 (s, 1H), 8.74-8.73 (m, 1H), 8.53-8.50 (m, 1H), 7.71 (s, 1H), 7.49-7.33 (m, 3H), 4.05 (s, 3H) 2.58 (s, 3H). MS (M+1): 272.

reactant | 5-(methyl-thio)-2-(pyridin-3-yl)-1H-benzo[d]imidazol-1-ol | 0.001 mol, 0.36 g | CSC1=CC2=C(N(C(=N2)C=2C=NC=CC2)O)C=C1 | C13H11N3OS
reactant | THF | 0.003 mol, 20 ml, 0.14 g | C1CCOC1 | C4H8O
reactant | methyl iodide | 0.002 mol, 0.39 g | CI | CH3I
product | 1-methoxy-5-(methyl-thio)-2-(pyridin-3-yl)-1H-benzo[d]imidazole | CON1C(=NC2=C1C=CC(=C2)SC)C=2C=NC=CC2 | C14H13N3OS
